*TITLE TEST
V1 1 0 0V AC 1V
Rin 1 N1 50
*Shifter
lb1 N1 N2 68n
cm1 N2 0 12p
*series
Lt1 N2 N3 5.6e-6
Ct1 N3 VOUT 2.14e-13
*shunt
Lc1 VOUT 0 5.35e-10
Cc1 VOUT 0 2.25e-9
RL VOUT 0 50
*Bottom circuit
Cb2 N1 N12 12p
*shunt1
Lb2 N12 0 68nh
*Cm2 N12 0
*Series 1
Lt2 N12 N13 120nh
Ct2 N13 VOUT2 10pf
*shunt2
Cc2 VOUT2 0 10pf
Lc2 VOUT2 0 150nH
RL2 VOUT2 0 50
*in is 2, out 5
.ac lin 100 10MEG 300MEG
*.print ac V(VOUT) V(V1)
.plot DB(V(VOUT)/V(N1)) DB(V(VOUT2)/V(N1))
*backanno
.end
